US04168315
An ethereal solution of thioformamide (0.153 mole) was concentrated in vacuo at less than 25°. The residue was slurried with acetonitrile (10 ml.) and cooled in an ice water bath. p-Methoxy-2-bromo-2-(p-methoxyphenyl)acetophenone (4.27 g.; 0.0128 mole) was dissolved in acetonitrile (50 ml.) and added via syringe to the above slurry. After stirring for 15 minutes in ice, the flask was refrigerated at 5°-10° for 16 hours. The solution was then stirred at ambient temperature for 70 hours before work up. The solvent was removed in vacuo and the residue was partitioned with ether and saturated sodium bicarbonate solution. The ether layer was washed with saturated sodium bicarbonate solution, water, and saturated sodium chloride solution, dried (sodium sulfate), and concentrated in vacuo. The residue was chromatographed on silica gel 60 at low pressure with 5% ethyl acetate in benzene. Recrystallization from hexane:benzene (11:1) afforded 2.25 g. (59% yield) of 4,5-bis(p-methoxyphenyl)thiazole.

reactant | thioformamide | 0.153 mole | C(=S)N | CH3NS
reactant | p-Methoxy-2-bromo-2-(p-methoxyphenyl)acetophenone | 0.0128 mole, 4.27 g | COC1=CC=C(C=C1)C(C(C1=CC=C(C=C1)OC)Br)=O | C16H15BrO3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4,5-bis(p-methoxyphenyl)thiazole | 59% yield | COC1=CC=C(C=C1)C=1N=CSC1C1=CC=C(C=C1)OC | C17H15NO2S
